### PR TITLE
[Merged by Bors] - chore: rename valuation_posSubmonoid_ne_zero_of_compatible

### PR DESCRIPTION
**Pull request by kckennylau**
and sneak one more lemma in

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 1]
```diff
@@ -552,11 +552,20 @@ lemma isEquiv {Γ₁ Γ₂ : Type*}
   simp_rw [← Valuation.Compatible.rel_iff_le]
 
 @[simp]
-lemma valuation_posSubmonoid_ne_zero_of_compatible {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ]
+lemma _root_.Valuation.map_posSubmonoid_ne_zero {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ]
     (v : Valuation R Γ) [v.Compatible] (x : posSubmonoid R) :
-    v (x : R) ≠ 0 := by
+    v x ≠ 0 := by
```
Comment (ocfnash) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]: FWIW I'd leave this as it was:
```suggestion
    v (x : R) ≠ 0 := by
```

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 2]
```diff
@@ -552,11 +552,20 @@ lemma isEquiv {Γ₁ Γ₂ : Type*}
   simp_rw [← Valuation.Compatible.rel_iff_le]
 
 @[simp]
-lemma valuation_posSubmonoid_ne_zero_of_compatible {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ]
+lemma _root_.Valuation.map_posSubmonoid_ne_zero {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ]
```
Comment (ocfnash) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]:
```suggestion
lemma _root_.Valuation.apply_posSubmonoid_ne_zero {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ]
```

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 3]
```diff
@@ -552,11 +552,20 @@ lemma isEquiv {Γ₁ Γ₂ : Type*}
...
     (v : Valuation R Γ) [v.Compatible] (x : posSubmonoid R) :
-    v (x : R) ≠ 0 := by
+    v x ≠ 0 := by
   simp [(isEquiv v (valuation R)).ne_zero, valuation_posSubmonoid_ne_zero]
 
+@[deprecated (since := "2025-08-06")]
+alias valuation_posSubmonoid_ne_zero_of_compatible := _root_.Valuation.map_posSubmonoid_ne_zero
```
Comment (ocfnash) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]:
```suggestion
alias valuation_posSubmonoid_ne_zero_of_compatible := _root_.Valuation.apply_posSubmonoid_ne_zero
```

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 4]
```diff
@@ -552,11 +552,20 @@ lemma isEquiv {Γ₁ Γ₂ : Type*}
...
+
+@[simp]
+lemma _root_.Valuation.map_posSubmonoid_pos {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ]
```
Comment (ocfnash) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]:
```suggestion
lemma _root_.Valuation.apply_posSubmonoid_pos {Γ : Type*} [LinearOrderedCommMonoidWithZero Γ]
```

File: Mathlib/RingTheory/Valuation/ValuativeRel.lean [hunk 5]
```diff
@@ -552,11 +552,20 @@ lemma isEquiv {Γ₁ Γ₂ : Type*}
...
+    (v : Valuation R Γ) [v.Compatible] (x : posSubmonoid R) :
+    0 < v x :=
+  zero_lt_iff.mpr <| v.map_posSubmonoid_ne_zero x
```
Comment (ocfnash) [inline Mathlib/RingTheory/Valuation/ValuativeRel.lean]:
```suggestion
  zero_lt_iff.mpr <| v.apply_posSubmonoid_ne_zero x
```

**Review by ocfnash — APPROVED** [review]
I think the `map_` names should all be `apply_` but otherwise LGTM.

bors d+
